US05446151
A mixture 1,3-dihydro-1,3,3-trimethyl-2-methyleneindoline (3.62 g; 0.021 mol) and 1-nitroso-2-naphthol (3.46 g; 0.02 mol) in ethanol (80.0 ml) was heated under reflux for 2 h. The solution was evaporated and the residue flash-chromatographed over silica (dichloromethane) to give 1,3-Dihydro-1,3,3-trimethylspiro[2H-indole-2,3'-3H-naphtho[2,1-b][1,4]oxazine] as a pale yellow solid (3-96 g; 60%).

reactant | 1,3-dihydro-1,3,3-trimethyl-2-methyleneindoline | 0.021 mol, 3.62 g | CC1(C(=C)N(C2=CC=CC=C21)C)C | C12H15N
reactant | 1-nitroso-2-naphthol | 0.02 mol, 3.46 g | N(=O)C1=C(C=CC2=CC=CC=C12)O | C10H7NO2
solvent | ethanol | 80.0 ml | C(C)O | C2H6O
product | 1,3-Dihydro-1,3,3-trimethylspiro[2H-indole-2,3'-3H-naphtho[2,1-b][1,4]oxazine] | CN1C2=CC=CC=C2C(C12C=NC1=C(O2)C=CC2=CC=CC=C21)(C)C | C22H20N2O
